US04874894
With stirring, 929.0 g phosphorus oxychloride was added to 836.0 g ethylbenzene. The resulting mixture was heated to approximately 69° C. and 599.0 g of 100 percent sulfuric acid was added over approximately sixteen minutes with the temperature rising to approximately 78° C. and it continued to slowly rise over approximately thirty-seven minutes to approximately 84° C. The mixture was held at approximately 80° C. for about two hours and then maintained at approximately 90° C. for an additional three hours. After cooling to approximately 82° C. the reaction mixture was poured slowly onto a mixture of 1500.0 ml water and 1500.0 g ice keeping the temperature under 5° C. with the addition of 440.0 g ice. After approximately ten minutes of stirring, the agitation was stopped and the mixture separated into two layers. The lower layer containing the product was separated and immediately poured onto 500.0 g of ice and 3500.0 ml of ice water was added. After approximately twenty minutes of stirring, the layers were separated to obtain 1400.0 ml of 4-ethylbenzenesulfonyl chloride.

reactant | phosphorus oxychloride | 929.0 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | ethylbenzene | 836.0 g | C(C)C1=CC=CC=C1 | C8H10
reactant | sulfuric acid | 599.0 g | S(O)(O)(=O)=O | H2O4S
solvent | water | 1500.0 ml | O | H2O
product | 4-ethylbenzenesulfonyl chloride | 1400.0 ml | C(C)C1=CC=C(C=C1)S(=O)(=O)Cl | C8H9ClO2S
